Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / ibuprofen / Humalog / all fish
 
Attending: ___.
 
Chief Complaint:
BKA wound infection
 
Major Surgical or Invasive Procedure:
left BKA stump revision

 
History of Present Illness:
___ w protein C deficiency, recurrent ___ (including CTEPH s/p
PA thromboembolectomy ___ on Coumadin, DM2, and PVD s/p L SFA
to ___ bypass w NRSVG & L ___ toe amputation ___ (Dr.
___ who then underwent a left BKA ___. He now is being
pre-admitted after being seen in clinic by Dr. ___ with a
small ulcer at the BKA stump site that has prevented him from
utilizing his prosthesis. He has had no change in his right foot
in terms of change in his neuropathic pain or motor function and
denies any recent ulcers on the right foot.

 
Past Medical History:
Type II DM, poorly controlled
DVT/PE on Coumadin (goal INR 2.5-3.5)
Tobacco abuse
Type 2 protein C deficiency
HLD
Lower extremity neuropathy
Chronic back pain from car accident in ___
HLD
CTEPH - s/p PTE at Mass Gen in ___

___: Left superficial femoral artery to posterior
tibial artery bypass with in-situ vein, left fourth toe
amputation, angioscopy with lysis of valves.
 
Social History:
___
Family History:
Mother had recurrent ___, died of pancreatic cancer in her ___
but clots started in her ___. Father had PE around age ___ and
told patient he had Factor V Leiden. Grandfather with lung
cancer. There is no known family history of pulmonary
hypertension.
 
Physical Exam:
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, poor dentition
CV: RRR
PULM: Breathing comfortably on room air
ABD: Soft, nondistended, nontender
LLE: small opening in left lateral stump site, palpable femoral
RLE: no edema or ulcers, palpable femoral, weak Doppler ___ and
intermittent Doppler DP
 
Pertinent Results:
___ 11:50PM   PTT-39.1*
___ 10:13PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:13PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:15PM   GLUCOSE-366* UREA N-11 CREAT-0.7 SODIUM-136 
POTASSIUM-4.7 CHLORIDE-95* TOTAL CO2-28 ANION GAP-13
___ 07:15PM   estGFR-Using this
___ 07:15PM   CALCIUM-9.7 PHOSPHATE-3.9 MAGNESIUM-1.8
___ 07:15PM   WBC-6.2 RBC-5.62 HGB-15.5 HCT-46.9 MCV-84 
MCH-27.6 MCHC-33.0 RDW-14.6 RDWSD-44.0
___ 07:15PM   PLT COUNT-163
___ 07:15PM   ___ PTT-32.6 ___ pre-admitted for revision of BKA stump site after found to 
have to have ulcer at amputation site, s/p BKA revision ___. 
The patient was started on Bactrim for his BKA stump infection. 
On POD2, the patient's heparin drip was stopped and he was 
started on Lovenox. On day of discharge, the patient was 
tolerating a regular diet on PO pain meds and voiding 
independently. He was asked to follow up in ___ clinic. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Cyclobenzaprine 5 mg PO TID 
2. Gabapentin 600 mg PO TID 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Simvastatin 40 mg PO QPM 
5. Lisinopril 2.5 mg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
8. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate 
9. FLUoxetine 40 mg PO DAILY 
10. Glargine 30 Units Bedtime
Insulin SC Sliding Scale using REG Insulin

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 2 TAB PO BID  
2.  Glargine 30 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
3.  Cyclobenzaprine 5 mg PO TID  
4.  Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time  
5.  FLUoxetine 40 mg PO DAILY  
6.  Gabapentin 600 mg PO TID  
7.  Lisinopril 2.5 mg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Metoprolol Succinate XL 50 mg PO DAILY  
10.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN Pain - 
Moderate  
11.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
BKA wound infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  During your hospitalization, you had surgery to 
remove unhealthy tissue on your lower extremity.  You tolerated 
the procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

LOWER  EXTREMITY AMPUTATION 
DISCHARGE INSTRUCTIONS
ACTIVITY 
You should keep your amputation site elevated and straight 
whenever possible.  This will prevent swelling of the stump and 
maintain flexibility in your joint.  
It is very important that you put no weight or pressure on 
your stump with activity or at rest to allow the wound to heal 
properly. 
You may use the opposite foot for transfers and pivots, if 
applicable.  It will take time to learn to use a walker and 
learn to transfer into and out of a wheelchair.  

MEDICATION
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

You will likely be prescribed narcotic pain medication on 
discharge which  can be very constipating.  If you take 
narcotics,  please also take a stool softener such as Colace.   
If constipation becomes a problem, your pharmacist can suggest 
an additional over the counter laxative. 

You should take Tylenol ___ every 6 hours, as needed for 
pain.  If this is not enough, take your prescription narcotic 
pain medication.  You should require less pain medication each 
day.  Do not take more than a daily total of 3000mg of Tylenol.  
Tylenol is used as an ingredient in some other over-the-counter 
and prescription medications.  Be aware of how much Tylenol you 
are taking in a day.

BATHING/SHOWERING: 
You may shower when you feel strong enough but no tub baths or 
pools until you have permission from your surgeon and the 
incision is fully healed.
After your shower, gently dry the incision well.   Do not rub 
the area. 

WOUND CARE:
Please keep the wound clean and dry. It is very important that 
there is no pressure on the stump.    If there is no drainage, 
you may leave the incision open to air.  
Your staples/sutures will remain in for at least 4 weeks.  At 
your followup appointment, we will see if the incision has 
healed enough to remove the staples. 
Before you can be fitted for prosthesis (a man-made limb to 
replace the limb that was removed) your incision needs to be 
fully healed. 

CALL THE OFFICE FOR: ___
Opening, bleeding or drainage or odor from your stump incision 

Redness, swelling or warmth in your stump.
Fever greater than 101 degrees, chills, or worsening 
incisional/stump pain  

IF THERE ARE ANY QUESTIONS, THE PROVIDER SHOULD CALL THE 
VASCULAR SURGERY OFFICE AT ___ TO DISCUSS.  
 
Followup Instructions:
___